US07956188B2
In a similar procedure to Stage 2, Step 1 of Example 5, 3-bromo-8-fluoro-quinolin-6-ol was reacted with chloro-methylsulfanyl-acetic acid ethyl ester to give (3-Bromo-8-fluoro-quinolin-6-yloxy)-methylsulfanyl-acetic acid ethyl ester.

reactant | 3-bromo-8-fluoro-quinolin-6-ol | BrC=1C=NC2=C(C=C(C=C2C1)O)F | C9H5BrFNO
reactant | chloro-methylsulfanyl-acetic acid ethyl ester | C(C)OC(C(SC)Cl)=O | C5H9ClO2S
product | (3-Bromo-8-fluoro-quinolin-6-yloxy)-methylsulfanyl-acetic acid ethyl ester | C(C)OC(C(SC)OC=1C=C2C=C(C=NC2=C(C1)F)Br)=O | C14H13BrFNO3S
